US03937704
6-methyl-3-(methylsulfinyl)-4(1H)-cinnolinone
This compound was prepared by diazotizing a solution of 18.5 g of 2'-amino-5'-methyl-2-(methylsulfinyl)acetophenone in 500 ml of 1N HCl with 6.3 g of NaNO2 in analogous fashion to 6-chloro-3-(methylsulfinyl)-4(1H)-cinnolinone. The material was recrystallized from DMF, m.p. 265°-67°; yield 15 g (77%).

reactant | 2'-amino-5'-methyl-2-(methylsulfinyl)acetophenone | 18.5 g | NC1=C(C=C(C=C1)C)C(CS(=O)C)=O | C10H13NO2S
reactant | NaNO2 | 6.3 g | N(=O)[O-].[Na+]
reactant | 6-chloro-3-(methylsulfinyl)-4(1H)-cinnolinone | ClC=1C=C2C(C(=NNC2=CC1)S(=O)C)=O | C9H7ClN2O2S
solvent | HCl | 1N, 500 ml | Cl | ClH
product | 6-methyl-3-(methylsulfinyl)-4(1H)-cinnolinone | CC=1C=C2C(C(=NNC2=CC1)S(=O)C)=O | C10H10N2O2S
